US06498165B1
2-[2-Furanylmethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with furfurylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 292.1 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.64 (s, 1H); 8.45 (s, 1H); 8.18 (m, 1H); 7.87 (m, 1H); 7.40 (m, 4H); 6.86 (d, J=5.5 Hz, 1H); 6.35 (m, 1H); 5.71 (br s, 1H); 4.75 (d, J=5.0 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
product | 2-[2-Furanylmethylamino]-4-[benzimidazol-1-yl]pyrimidine | O1C(=CC=C1)CNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C16H13N5O
